Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Phenobarbital
 
Attending: ___.
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o. woman with hx of DM, HL, spinal stenosis presenting with 
palpitations x 3 days. Brief palpitations, happening 
intermittently with no identifiable precipitant. Patient 
initially presented to ___ with three days of 
palpitations found to have elevated tropT 0.011. Patient denies 
chest pain, shortness of breath, fatigue, fevers, leg swelling, 
abdominal pain, syncope or presyncope. No recent viral 
infection, no pleuritic chest pain. At outside hospital she 
received full dose aspirin. EKG showed no ischemic changes. 
Chest x-ray was negative. Cardiology was consulted at ___ 
and recommended transfer to ___ for cardiology admission. 

In the ED, initial vitals were: T 97.7 HR 62 BP 156/74 RR 16 
SpO2 97% RA. Patient was without any chest pain or other 
complaints. ED EKG notable for sinus rhythm without ischemic 
changes. Labs most notable for trop <0.l0, CK-MB 4, otherwise 
unremarkable CBC and Chem 7.UA notable for hazy urine, large 
leuks, and sterile pyuria. 
 
Patient was given: no medications 

On the floor, she continues to report occasional palpitations, 
but denies chest pain, breathing comfortably.  
 
On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
 
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  

 
Past Medical History:
-Diabetes Mellitus
-Hypercholesterolemia
-Obesity
-Spinal Stenosis 
-Seborrheic Keratosis 
-Insomnia 
-PMR, recently on prednisone (2.5mg daily)
 
Social History:
___
Family History:
Father died due to heart disease (unclear diagnosis) in his ___, 
otherwise denies h/o arrhythmia, cardiomyopathies, or sudden 
cardiac death; otherwise non-contributory.
 
Physical Exam:
ON ADMISSION: 
VS: T=97.6 BP=164/70 HR=66 RR=18 O2 sat=97% onRA
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple, JVP flat. 
CARDIAC: RRR with occasional PVCs, normal S1, S2. No 
murmurs/rubs/gallops. No thrills, lifts.
LUNGS: No chest wall deformities. Resp were unlabored, no 
accessory muscle use. No crackles, wheezes or rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

ON DISHCARGE: 
VS: T=98.1 BP=151/68 (151-164/68-70) HR=60s RR=20 O2 sat=95% 
onRA
Tele: Intermittent PACs, otherwise sinus. 
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple, JVP flat. 
CARDIAC: RRR with occasional PVCs, normal S1, S2. No 
murmurs/rubs/gallops. No thrills, lifts.
LUNGS: No chest wall deformities. Resp were unlabored, no 
accessory muscle use. No crackles, wheezes or rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric
 
Pertinent Results:
ON ADMISSION: 
___ 05:30PM BLOOD WBC-4.8 RBC-4.41 Hgb-12.9 Hct-40.4 MCV-92 
MCH-29.3 MCHC-31.9* RDW-14.6 RDWSD-49.1* Plt ___
___ 05:30PM BLOOD Neuts-37.1 ___ Monos-9.8 Eos-4.0 
Baso-1.5* Im ___ AbsNeut-1.78 AbsLymp-2.26 AbsMono-0.47 
AbsEos-0.19 AbsBaso-0.07
___ 05:30PM BLOOD ___ PTT-25.4 ___
___ 05:30PM BLOOD Glucose-90 UreaN-19 Creat-0.8 Na-141 
K-4.1 Cl-105 HCO3-26 AnGap-14
___ 05:30PM BLOOD CK(CPK)-69
___ 05:30PM BLOOD CK-MB-4 cTropnT-<0.01
___ 08:00AM BLOOD cTropnT-<0.01

ON DISCHARGE: 
___ 08:00AM BLOOD WBC-3.9* RBC-4.21 Hgb-12.3 Hct-38.8 
MCV-92 MCH-29.2 MCHC-31.7* RDW-14.7 RDWSD-49.9* Plt ___
___ 08:00AM BLOOD Glucose-97 UreaN-18 Creat-0.8 Na-145 
K-3.7 Cl-108 HCO3-29 AnGap-12
___ 08:00AM BLOOD Calcium-9.4 Phos-3.4 Mg-1.9

MICRO: 
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 
Brief Hospital Course:
___ y.o. woman with hx of DM, HL, spinal stenosis presenting with 
palpitations x 3 days. 

#Palpitations: Initially presented to ___, ___/ w/u notable 
for negative CXR and troponin mildly elevated at 0.011. EKG 
showed no ischemic changes, but was transferred to ___ for 
consideration of cardiac catheretization. On presentation, 
continued to have intermittent palpitations with PACs seen on 
telemetry, but denied CP or SOB. Endorsed nocturia, but 
otherwise no urinary symptoms. Trops were neg x 2, repeat ECG 
showed NSR with no ischemic changes. UA showed sterile pyuria, 
and she was treated with course of cipro for presumed UTI that 
was thought to be a trigger for increased frequency of PACs and 
was discharged home with supply of metop 12.5mg q6h prn 
palpitations with PCP ___. 

#Uncomplicated UTI: UA with sterile pyuria, although expressed 
only nocturia, no other urinary sx concern that increased 
frequency of PACs manifestation of underlying UTI. Discharged on 
ciprofloxacin empirically to complete 7 day course (last day 
___. Urine culture ultimately c/w contamination, no growth. 

====================
Transitional issues: 
=====================
- Palpitations: Discharged with prescription for metoprolol 
tartrate 12.5mg q6hr prn palpitations. Should be followed up 
with PCP, consider transitioning to long acting metop if 
requiring frequent doses.
- Uncomplicated UTI: Discharged on ciprofloxacin to complete 7 
day course (last day ___
- HTN: Blood pressure noted to be mildly elevated this 
admission, with systolic pressure 150s-170s. Please ___ blood 
pressure in outpatient setting and consider restarting 
antihypertensive if persistently elevated. 
- CODE: DNR/DNI confirmed with patient 
- CONTACT: ___ (son), lives in ___: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen Dose is Unknown  PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. Calcium 500 + D (calcium carbonate-vitamin D3) unknown  oral 
DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Ciprofloxacin HCl 250 mg PO Q12H 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth twice a day 
Disp #*13 Tablet Refills:*0
3. Metoprolol Tartrate 12.5 mg PO Q6H 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
every six (6) hours Disp #*30 Tablet Refills:*0
4. Calcium 500 + D (calcium carbonate-vitamin D3) 1 tab ORAL 
DAILY 
5. Naproxen 1 tab PO Q12H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Palpitations, atrial premature beats

SECONDARY DIAGNOSIS: Uncomplicated UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You came into the hospital because you were having palpitations 
and your labs showed an abnormality suggesting you may have been 
having a heart attack. We repeated the lab tests for your heart 
which were normal here, and your heart rhythm was monitored 
closely overnight with no abnormalities. Your palpitations are 
likely from normal "extra" beats that can happen when your body 
is under stress, such as an infection. You were treated for a 
urinary tract infection with an antibiotic and given a 
medication called metoprolol to help stop the extra beats, a 
medication you need to take only as needed.  This means that if 
you are not having palpitations, you do not have to take the 
metoprolol.  It is important that you make it to all of your 
follow-up appointments. 

It was a pleasure being involved in your care! 
Your ___ Care Team
 
Followup Instructions:
___